US05273999
Preparation of 2-(4-Bromobutoxy)-5-[[3-(ethoxycarbonyl)phenyl]carbonyl]benzenepropanoic Acid Ethyl Ester
Starting with 0.388 g (1.05 mmol) of 5-[[3-(ethoxycarbonyl)phenyl]carbonyl]-2-hydroxybenzenepropanoic acid ethyl ester, and 1.81 g (8.38 mmol) of 1,4-dibromobutane, the title compound was obtained as a colorless oil, in 81.2% yield, using the procedure of example 21.

reactant | 5-[[3-(ethoxycarbonyl)phenyl]carbonyl]-2-hydroxybenzenepropanoic acid ethyl ester | 1.05 mmol, 0.388 g | C(C)OC(CCC1=C(C=CC(=C1)C(=O)C1=CC(=CC=C1)C(=O)OCC)O)=O | C21H22O6
reactant | 1,4-dibromobutane | 8.38 mmol, 1.81 g | BrCCCCBr | C4H8Br2
product | 2-(4-Bromobutoxy)-5-[[3-(ethoxycarbonyl)phenyl]carbonyl]benzenepropanoic Acid Ethyl Ester | 81.2% yield | C(C)OC(CCC1=C(C=CC(=C1)C(=O)C1=CC(=CC=C1)C(=O)OCC)OCCCCBr)=O | C25H29BrO6
